US06593335B1
4-Bromo-3-nitrobenzaldehyde
4-Bromobenzaldehyde (5.0 g, 27 mmol) was slowly added to concentrated sulfuric acid (25 mL) at 0 IC followed by dropwise addition of fuiming nitric acid (1.7 mL, 40.5 mmol) in concentrated sulfuric acid (8 mL). The reaction mixture was stirred at room temperature overnight, then poured onto ice water to provide 5.7 g of the title compound.

reactant | 4-Bromobenzaldehyde | 27 mmol, 5.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | nitric acid | 40.5 mmol, 1.7 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Bromo-3-nitrobenzaldehyde | 5.7 g | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
